US04348333
Fifteen grams (0.1 mol) of NaI was added to a solution of 3.58 g (0.02 mol) of ethyl 3-methoxy-4-chlorocrotonate in 150 mL of acetone. The solution was stirred vigorously for 20 h in a flask protected from light and standard workup yielded 5.38 g (100%) of ethyl 3-methoxy-4-iodocrotonate as an amber liquid: VPC (6 ft 5% SF96 on 60-80 mesh chromosorb G; 160° C.; 60 cm3 /min He flow) tR =4.0 min; NMR (CDCl3)δ1.31 (t, 3H, J=7 Hz, COOCCH3), 3.73 (s, 3H, OCH3), 4.24 (q, 2H, J=7 Hz, COOCH2C), 4.48 (s, 2H, CH2I), 5.13 (s, 1H, CH).

reactant | NaI | 0.1 mol, Fifteen grams | [Na+].[I-]
reactant | ethyl 3-methoxy-4-chlorocrotonate | 0.02 mol, 3.58 g | CO\C(=C/C(=O)OCC)\CCl | C7H11ClO3
solvent | acetone | 150 mL | CC(=O)C | C3H6O
product | ethyl 3-methoxy-4-iodocrotonate | 5.38 g, 100% | CO\C(=C/C(=O)OCC)\CI | C7H11IO3
